US05602170
1 g of 5-iodo-2-thiophenecarboxaldehyde was dissolved in 200 ml of acetonitrile. 0.7 g of bithiophene was added into the solution under nitrogen gas atmosphere for 1 hour and irradiated under 100 W mercury-vapor lamp light for 12 hours. The solution was monitored by thin layer chromatography. At this stage, about 60% product was generated. The acetonitrile was removed from the reaction solution under reduced pressure and CH2Cl2 was added for extraction. After the extract was filtered through silica gel layer and separated by column chromatography, starting material was recovered from the eluate of ethyl acetate/n-hexane 1/9 fraction and 5-formyl-2,2':5',2"-terthiophene was obtained from the eluate of ethyl acetate/n-hexane 3/7 fraction respectively.

reactant | 5-iodo-2-thiophenecarboxaldehyde | 1 g | IC1=CC=C(S1)C=O | C5H3IOS
reactant | bithiophene | 0.7 g | S1C(=CC=C1)C=1SC=CC1 | C8H6S2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
catalyst | mercury | [Hg] | Hg
product | 5-formyl-2,2':5',2"-terthiophene | C(=O)C1=CC=C(S1)C=1SC(=CC1)C=1SC=CC1 | C13H8OS3
